US09285319B2
Tributyl(1-propynyl)tin (327 μL, 1 mmol) was added to a DMF (5 mL) solution containing 1-(2-deoxy-β-D-ribofuranosyl)-4-iodo-2-nitropyrrole (180 mg, 0.5 mmol) and bis(triphenylphosphine)palladium(II) dichloride (38 mg, 0.05 mmol), followed by reaction at 100° C. for 90 minutes. The reaction solution was concentrated and purified by silica gel column chromatography and HPLC to yield 1-(2-deoxy-β-D-ribofuranosyl)-4-propynyl-2-nitropyrrole (76 mg, 0.28 mmol, 57%).

reactant | Tributyl(1-propynyl)tin | 1 mmol, 327 μL | C(CCC)[Sn](C#CC)(CCCC)CCCC
reactant | 1-(2-deoxy-β-D-ribofuranosyl)-4-iodo-2-nitropyrrole | 0.5 mmol, 180 mg | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C(=CC(=C1)I)[N+](=O)[O-] | C9H11IN2O5
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.05 mmol, 38 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-deoxy-β-D-ribofuranosyl)-4-propynyl-2-nitropyrrole | 0.28 mmol, 76 mg, 57% | [C@@H]1(C[C@H](O)[C@H](O1)CO)N1C(=CC(=C1)C#CC)[N+](=O)[O-] | C12H14N2O5
